US06716856B1
Preparation of 4-Methoxy-1-(2-pyridyl)-3,6,6-trimethyl-4,5,6,7-tetrahydroindazole.
0.11 g (2.04 mmol) of 55% sodium hydride in oil were added to a solution of 4-hydroxy-1-(2-pyridyl)-3,6,6-trimethyl-4,5,6,7-tetrahydroindazole (0.35 g, 1.36 mmol), prepared as described in example 12, in dry tetrahydrofuran (5 ml) maintained under magnetic stirring and inhert atmosphere at 0° C. After 5 minutes, 0.13 ml (2.04 mmol) of methyl iodide were added, the reaction mixture was allowed to warm to room temperature and after 3.5 hours further 0.13 ml of methyl iodide were added. Stirring was continued for about 24 hours, additional sodium hydride (0.11 g) and methyl iodide (0.13 ml) were added and after 2.5 hours the solvent was evaporated. The residue was chromatographed on silica gel (cyclohexane:ethyl acetate=90:10), to yield the title compound as a colourless solid (0.3 g, 82%): m.p. 66-68° C.

reactant | sodium hydride | 2.04 mmol, 0.11 g | [H-].[Na+]
reactant | 4-hydroxy-1-(2-pyridyl)-3,6,6-trimethyl-4,5,6,7-tetrahydroindazole | 1.36 mmol, 0.35 g | OC1C=2C(=NN(C2CC(C1)(C)C)C1=NC=CC=C1)C | C15H19N3O
reactant | methyl iodide | 2.04 mmol, 0.13 ml | CI | CH3I
reactant | methyl iodide | 0.13 ml | CI | CH3I
reactant | sodium hydride | 0.11 g | [H-].[Na+]
reactant | methyl iodide | 0.13 ml | CI | CH3I
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-Methoxy-1-(2-pyridyl)-3,6,6-trimethyl-4,5,6,7-tetrahydroindazole | 0.3 g, 82% | COC1C=2C(=NN(C2CC(C1)(C)C)C1=NC=CC=C1)C | C16H21N3O
